US08097759B2
2-[2-Hydroxy-5-(1-pyrrolyl)benzoyl]amino-4-phenylthiazole-5-carboxylic acid ethyl ester (Compound No. 222)
Using 2-hydroxy-5-(1-pyrrolyl)benzoic acid and 2-amino-4-phenylthiazole-5-carboxylic acid ethyl ester as the raw materials, the same operation as the example 195(3) gave the title compound.

reactant | 2-hydroxy-5-(1-pyrrolyl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)N1C=CC=C1 | C11H9NO3
reactant | 2-amino-4-phenylthiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H12N2O2S
product | 2-[2-Hydroxy-5-(1-pyrrolyl)benzoyl]amino-4-phenylthiazole-5-carboxylic acid ethyl ester | Yield: 55.0% | C(C)OC(=O)C1=C(N=C(S1)NC(C1=C(C=CC(=C1)N1C=CC=C1)O)=O)C1=CC=CC=C1 | C23H19N3O4S
